US06248740B1
Production of 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropanol
0.719 g of 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionic acid was dissolved in 15 ml of tetrahydrofuran; 0.535 g of N,N′-carbonyldiimidazole was added, followed by stirring at room temperature for 60 minutes. To this mixture, 1.15 g of tetra-n-butylammonium borohydride was added under ice cooling conditions, followed by stirring at room temperature for 1 hour. 2 ml of 5 N hydrochloric acid was added to the reaction mixture, followed by concentration under reduced pressure. The residue was ajusted to pH 7 by the addition of aqueous sodium carbonate and extracted with ethyl acetate; the extract was washed with saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate. The desired fraction was collected and concentrated; the crystal obtained was collected by filtration to yield 0.488 g of the title compound.

reactant | 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionic acid | 0.719 g | ClC=1C=CC=2N(N1)C=C(N2)C(C(=O)O)(C)C | C10H10ClN3O2
reactant | tetra-n-butylammonium borohydride | 1.15 g | [BH4-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 5 N, 2 ml | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropanol | 0.488 g | ClC=1C=CC=2N(N1)C=C(N2)C(CO)(C)C | C10H12ClN3O
